### ISSUE TITLE
`apply` regression

### ISSUE THREAD

**Issue by kbuzzard** [leanprover/lean4#1841]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`apply` in Lean 4 sometimes doesn't work when the corresponding code in Lean 3 did.

### Steps to Reproduce

In Lean 3 this works (the issue is four lines from the bottom):
```
variables {α : Type} {r : α → α → Prop} {b : α}

inductive ReflTransGen (r : α → α → Prop) (a : α) : α → Prop
| refl : ReflTransGen a
| tail {b c} : ReflTransGen b → r b c → ReflTransGen c

namespace ReflTransGen

variables {a c : α}

theorem head (hab : r a b) (hbc : ReflTransGen r b c) : ReflTransGen r a c := begin
  induction hbc with c d _ hcd hac,
    exact refl.tail hab,
  exact hac.tail hcd,
end

theorem head_induction_on {P : ∀ a : α, ReflTransGen r a b → Prop} {a : α} (h : ReflTransGen r a b)
    (refl : P b refl)
    (head : ∀ {a c} (h' : r a c) (h : ReflTransGen r c b), P c h → P a (h.head h')) : P a h :=
begin
  induction h with b c _ hbc ih generalizing P,
    exact refl,
  -- this next line works
  apply ih,
  { exact head hbc _ refl },
  { exact λ _ _ h1 h2, head h1 (h2.tail hbc) },
end

end ReflTransGen
```

In Lean 4 the corresponding autoported code doesn't work; the `apply` fails and one has to supply the motive explicitly:
```
variable {α : Type} {r : α → α → Prop} {b : α}

inductive ReflTransGen (r : α → α → Prop) (a : α) : α → Prop
| refl : ReflTransGen r a a
| tail {b c} : ReflTransGen r a b → r b c → ReflTransGen r a c

namespace ReflTransGen

theorem head (hab : r a b) (hbc : ReflTransGen r b c) : ReflTransGen r a c := by
  induction hbc
  case refl => exact refl.tail hab
  case tail c d _ hcd hac => exact hac.tail hcd

@[elab_as_elim]
theorem head_induction_on {P : ∀ a : α, ReflTransGen r a b → Prop} {a : α} (h : ReflTransGen r a b)
    (refl : P b refl)
    (head : ∀ {a c} (h' : r a c) (h : ReflTransGen r c b), P c h → P a (h.head h')) : P a h := by
  induction h
  case refl => exact refl
  case tail b c _ hbc ih =>
  -- remark: Lean 3 figured out the motive and `apply ih` worked
  -- leaving the same two goals as this `refine @ih ...` line here:
  refine @ih (λ {a : α} (hab : ReflTransGen r a b) => P a (ReflTransGen.tail hab hbc)) ?_ ?_
  { exact head hbc _ refl }
  { exact fun h1 h2 => head h1 (h2.tail hbc) }

end ReflTransGen
```

**Expected behavior:** I don't know what to expect -- I'm just observing that something which used to work, doesn't work now.

**Actual behavior:** `apply ih` fails.

**Reproduces how often:** 100%

### Versions

You can get this information from copy and pasting the output of `lean --version`,
please include the OS and what version of the OS you're running.

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.
